US04550105
The crude sodium 3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate (syn-isomer) obtained above (0.556 g) is dissolved in 8 ml of water, and to the solution is added 0.172 g of sodium N-methyldithiocarbamate under ice-cooling and stirring. The mixture is stirred for 3 hours, after which any insoluble matter is filtered off. The filtrate is purified by XAD-II chromatography to yield 0.174 g of sodium 3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate (syn-isomer).

reactant | sodium 3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1C(N(C1)S(=O)(=O)[O-])=O)=NOC.[Na+]
reactant | sodium N-methyldithiocarbamate | 0.172 g | CNC([S-])=S.[Na+]
solvent | water | 8 ml | O | H2O
product | sodium 3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine-1-sulfonate | 0.174 g | NC=1SC=C(N1)C(C(=O)NC1C(N(C1)S(=O)(=O)[O-])=O)=NOC.[Na+] | InChI=1S/C9H11N5O6S2.Na/c1-20-13-6(5-3-21-9(10)12-5)7(15)11-4-2-14(8(4)16)22(17,18)19;/h3-4H,2H2,1H3,(H2,10,12)(H,11,15)(H,17,18,19);/q;+1/p-1
